US08026257B2
(±)-1-(5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethanol.
To a solution of 5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde (600 mg, 1.689 mmol) in tetrahydrofuran (10 mL) at −78° C. was added methylmagnesiumbromide (3M in diethyl ether, 1.13 mL, 3.38 mmol). After 5 min, the ice bath was removed and stirring continued for 30 min. The reaction was cooled to 0° C. and quenched by the cautious addition of saturated ammonium chloride. The mixture was poured into diethyl ether, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12%→25% EtOAc/Hex) gave 575 mg (92%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.76 (s, 1H), 7.61 (s, 1H), 5.92 (d, J=11.6, 1H), 5.80 (d, J=11.6, 1H), 5.56 (m, 1H), 3.46 (m, 2H), 3.26 (s, 1H), 1.64 (d, J=6.4, 3H), 0.80 (m, 2H), −0.11 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 136.2, 133.5, 130.8, 128.1, 126.9, 122.9, 114.8, 80.3, 66.5, 64.6, 23.0, 17.8, −1.4.

reactant | 5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde | 1.689 mmol, 600 mg | BrC=1C=C2C=NN(C2=C(C1)C=O)COCC[Si](C)(C)C | C14H19BrN2O2Si
reactant | methylmagnesiumbromide | 3.38 mmol, 3M, 1.13 mL | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (±)-1-(5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)ethanol | BrC=1C=C2C=NN(C2=C(C1)C(C)O)COCC[Si](C)(C)C | C15H23BrN2O2Si
